US09216980B2
Step 2: 3-[4-(4,4-Dimethylpiperidin-1-ylmethyl)-phenyl]-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-bromo-3-[4-(4,4-dimethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (200 mg, 0.45 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (185 mg, 0.89 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (37 mg, 0.05 mmol) in 2N aqueous sodium carbonate solution (5 mL) and acetonitrile (5 mL) was heated under microwave irradiation at 130° C. for 20 minutes. The cooled reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (75 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 10 g column, Biotage, 0-15% methanol in DCM) to afford the title compound as a white solid (78 mg, 38%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.85 (d, J=1.1 Hz, 1H), 8.81 (d, J=2.2 Hz, 1H), 8.79 (d, J=2.2 Hz, 1H), 8.33 (d, J=1.1 Hz, 1H), 8.08 (s, 1H), 8.06 (d, J=08 Hz, 1H), 7.70 (d, J=8.1 Hz, 2H), 7.49 (d, J=8.1 Hz, 2H), 4.00 (s, 3H), 3.63 (s, 2H), 2.51 (t, J=5.0 Hz, 4H), 1.46 (t, J=5.6 Hz, 4H), 0.96 (s, 6H).

reactant | 6-bromo-3-[4-(4,4-dimethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.45 mmol, 200 mg | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)(C)C | C24H25BrN4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.89 mmol, 185 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | sodium carbonate | 2N, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4,4-Dimethylpiperidin-1-ylmethyl)-phenyl]-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 78 mg, 38% | CC1(CCN(CC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C=3C=NN(C3)C)N=C1)C | C28H30N6
